US06630600B1
(Z)-3-[4-(Benzyloxy)phenyl]-2-(2-methoxyethoxy)-2-propenoic acid benzyl ester (1.75 g; 4.2 mmole) was hydrogenated in methanol (50 ml) at atmospheric pressure using Pd/C (5%) as catalyst. The mixture was filtered through celite and evaporated in vacuo to give 3-(4-hydroxyphenyl)-2-(2-methoxyethoxy)propanoic acid 0.83 g (88% yield).

reactant | (Z)-3-[4-(Benzyloxy)phenyl]-2-(2-methoxyethoxy)-2-propenoic acid benzyl ester | 4.2 mmole, 1.75 g | C(C1=CC=CC=C1)OC(/C(=C/C1=CC=C(C=C1)OCC1=CC=CC=C1)/OCCOC)=O | C26H26O5
solvent | methanol | 50 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 3-(4-hydroxyphenyl)-2-(2-methoxyethoxy)propanoic acid | 0.83 g, 88% yield | OC1=CC=C(C=C1)CC(C(=O)O)OCCOC | C12H16O5
